US06316637B1
To a solution of l-(2-hydroxyethyl)-5-nitrobenzimidazole (0.27 g, 1.3 mmol) was added triphenylphosphine (0.38 g, 1.4 mmol), DEAD (0.25 ml, 1.4 mmol) and phthalimide (0.21 g, 1.4 mmol) in a portion and resulting mixture was stirred for 1 h at 25° C. The reaction mixture was concentrated in vacuo, yielding an oil which was subjected to column chromatography (40% Hexane/EtOAc) to provide 0.36 g (1.1 mmol, 82%) of 1-(2-phthalimidylethyl)-5-nitrobenzimidazole. The nitrobenzimidazole was subsequently subjected to hydrogenation, bromination and coupling with ISA to produce 0.41 g of 1-(2-phthalimidylethyl)-4-bromo-5-(2-imidazolin-2-ylamino)benzimidazole which was refluxed with 0.3 ml of hydrazine in 20 ml of MeOH for 0.5 h to yield the desired product (0.31 g, 0.96 mmol, 68% overall). The product obtained was converted to the fumarate salt and recrystallized from isopropanol to afford 0.21 g (24%) of the product as a white foamy solid.

reactant | l-(2-hydroxyethyl)-5-nitrobenzimidazole | 1.3 mmol, 0.27 g | OCCN1C=NC2=C1C=CC(=C2)[N+](=O)[O-] | C9H9N3O3
reactant | triphenylphosphine | 1.4 mmol, 0.38 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DEAD | 1.4 mmol, 0.25 ml | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | phthalimide | 1.4 mmol, 0.21 g | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
solvent | Hexane EtOAc | CCCCCC.CCOC(=O)C
product | 1-(2-phthalimidylethyl)-5-nitrobenzimidazole | 1.1 mmol, 0.36 g, 82% | C1(C=2C(C(N1CCN1C=NC3=C1C=CC(=C3)[N+](=O)[O-])=O)=CC=CC2)=O | C17H12N4O4
